US06699995B1
Methyl 4-(4-chlorophenyl)-2-(2-methylimidazol-1-yl)-5-oxazolepropionate
A mixture of methyl 2-chloro-4-(4-chlorophenyl)-5-oxazolepropionate (805.4 g), 2-methylimidazole (1101.7 g) and dimethyl sulfoxide (2416 mL) was stirred at 110° C. for 8 h and water was added to the obtained mixture. The mixture was extracted with ethyl acetate and the extract was washed with 5% brine. The solvent was evaporated and the residue was dissolved in ethyl acetate (1611 mL) with heating. n-Heptane (4832 mL) was added at 30° C. The precipitated crystals were collected by filtration and washed with ethyl acetate-n-heptane (1:3) to give the title compound (716.6 g, yield: 77.2%).

reactant | methyl 2-chloro-4-(4-chlorophenyl)-5-oxazolepropionate | 805.4 g | ClC=1OC(=C(N1)C1=CC=C(C=C1)Cl)CCC(=O)OC | C13H11Cl2NO3
reactant | 2-methylimidazole | 1101.7 g | CC=1NC=CN1 | C4H6N2
reactant | dimethyl sulfoxide | 2416 mL | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | Methyl 4-(4-chlorophenyl)-2-(2-methylimidazol-1-yl)-5-oxazolepropionate | 716.6 g, yield: 77.2% | ClC1=CC=C(C=C1)C=1N=C(OC1CCC(=O)OC)N1C(=NC=C1)C | C17H16ClN3O3
